US04994459
Step (2) Preparation of N-[4-(2-Propeneoxy)phenyl]methanesulfonamide
Methanesulfonyl chloride (5.06 mL, 65.32 mmol) was added to a stirred solution of 3-[(4-amino)phenoxy]-1-propene (8.11 g, 54.43 mmol) in pyridine (80 mL) at 0° C. The mixture was stirred for 72 hours and was then poured slowly into ice-water and extracted with ether. The organic phase was washed with cold 1N HCl and was then extracted with 1N NaOH solution. The aqueous phase was acidified and the product (9.05 g, 73%) precipitated out as a white solid.

reactant | Methanesulfonyl chloride | 65.32 mmol, 5.06 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-[(4-amino)phenoxy]-1-propene | 54.43 mmol, 8.11 g | NC1=CC=C(OCC=C)C=C1 | C9H11NO
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(2-Propeneoxy)phenyl]methanesulfonamide | C(C=C)OC1=CC=C(C=C1)NS(=O)(=O)C | C10H13NO3S
